US06242601B1
0.41 g of 5-methyl-pyridine-2-sulfonic acid [2-(3-hydroxy-phenyl)-6-methoxy-5-(2-methoxy-phenoxy)-pyrimidin-4-yl]-amide, product of example 1, were dissolved in DMF (30 ml) and treated with NaH (0.061 g of a 65% NaH suspension in oil) under ice cooling. The mixture was stirred for 1 h at RT, treated dropwise with 0.11 g of methyl chloroacetate and was stirred at RT for 20 h until the reaction was completed according to TLC analysis (CH2Cl2/EtOAc: 4/1). The mixture was partitioned between brine and EtOAc the organic layer was dried over Na2SO4 and the solvent removed in vacuo. The residue was purified on a silica gel chromatography column (eluted with Me2Cl2/EtOAc: 7/1). Combination of the purified fractions and evacuation in vacuo afforded {3-[4-methoxy-5-(2-methoxy-phenoxy)-6-(5-methyl-pyridine-2-sulfonylamino)-pyrimidin-2-yl]-phenoxy}-acetic acid methyl ester as a light yellow crystalline solid. ISP mass spectrum, m/e 567.2 (M+1 calculated for C27H26N4O8S: 567).

reactant | 5-methyl-pyridine-2-sulfonic acid [2-(3-hydroxy-phenyl)-6-methoxy-5-(2-methoxy-phenoxy)-pyrimidin-4-yl]-amide | 0.41 g | OC=1C=C(C=CC1)C1=NC(=C(C(=N1)NS(=O)(=O)C1=NC=C(C=C1)C)OC1=C(C=CC=C1)OC)OC | C24H22N4O6S
reactant | NaH | [H-].[Na+]
reactant | methyl chloroacetate | 0.11 g | ClCC(=O)OC | C3H5ClO2
reactant | CH2Cl2 EtOAc | C(Cl)Cl.CCOC(=O)C
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | {3-[4-methoxy-5-(2-methoxy-phenoxy)-6-(5-methyl-pyridine-2-sulfonylamino)-pyrimidin-2-yl]-phenoxy}-acetic acid methyl ester | COC(COC1=CC(=CC=C1)C1=NC(=C(C(=N1)OC)OC1=C(C=CC=C1)OC)NS(=O)(=O)C1=NC=C(C=C1)C)=O | C27H26N4O8S
